US08389524B2
(d) N-[((3S)-1-{[(1R)-4,9-dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl]methyl}-3-pyrrolidinyl)methyl]-2,2,2-trifluoro acetamide
To a 25 mL round-bottomed flask was added N-[((3S)-1-{[(2R)-4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl}-3-pyrrolidinyl)methyl]-2,2,2-trifluoroacetamide (240 mg, 0.602 mmol) in 1,4-dioxane (5 ml) at rt under nitrogen to give a orange solution. DDQ (205 mg, 0.904 mmol) was added and the reaction became very dark. The reaction was heated to 80° C. on an oil bath and stirred for 10 h. The reaction was cooled to rt. 5% Aqueous K2CO3 (20 mL) was added and the reaction was extracted with DCM (3×100 mL). The combined organic layers were washed with a saturated aqueous NaCl solution and the organic phase was dried over Na2SO4, filtered and concentrated to give the crude product. The crude product was added to a silica gel column and was eluted with 0-20% MeOH/CHCl3 to give product (85 mg, 0.214 mmol, 35.6% yield) as an orange solid.

reactant | N-[((3S)-1-{[(2R)-4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl}-3-pyrrolidinyl)methyl]-2,2,2-trifluoroacetamide | 0.602 mmol, 240 mg | O=C1N2C=3N(C(CCC3C=C1)=O)C[C@H]2CN2C[C@@H](CC2)CNC(C(F)(F)F)=O | C18H21F3N4O3
reactant | DDQ | 0.904 mmol, 205 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | K2CO3 | 20 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-[((3S)-1-{[(1R)-4,9-dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl]methyl}-3-pyrrolidinyl)methyl]-2,2,2-trifluoro acetamide | 0.214 mmol, 85 mg, 35.6% yield | O=C1N2C=3N(C(C=CC3C=C1)=O)[C@@H](C2)CN2C[C@@H](CC2)CNC(C(F)(F)F)=O | C18H19F3N4O3
